US07384963B2
2′-Methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-methylbenzylamine using method N. NMR; δH [2H6]—DMSO 9.10,(1H, t), 7.99,(2H, d), 7.89,(1H, dd), 7.76,(1H, d), 7.56-7.51,(3H, m), 7.22,(2H, d), 7.13,(2H, d), 4.46,(2H, d), 2.56,(3H, s), 2.31,(3H, s), 2.27,(3H, s). LCMS; retention time 3.48 min, MH+ 398.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-methylbenzylamine | CC1=CC=C(CN)C=C1 | C8H11N
product | 2′-Methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)C | C25H23N3O2
